US07115611B2
A] 3-(1-Ethoxycarbonyl-1-methyl-ethoxy)-benzoic acid
3.33 g (14.1 mmol) of 2-(3-formyl-phenoxy)-2-methyl-propionic acid ethyl ester (example 55A])] was dissolved in 60 ml of tert.-butanol; 7.5 ml (70.5 mmol) of 2-methyl-2-butene was added, followed by a solution of 4.14 g (36.6 mmol) of sodium chlorite and 3.30 g (21.1 mmol) of sodium dihydrogen phosphate in 35 ml of water. After 2 hours, the reaction mixture was poured into crashed ice/EtOAc and extracted twice with EtOAc; the organic phases were washed with water, dried (MgSO4) and evaporated. The crude product was purified by recrystallisation from EtOAc/heptane to give 3.19 g of the title compound as colorless solid.

reactant | 2-(3-formyl-phenoxy)-2-methyl-propionic acid ethyl ester | 14.1 mmol, 3.33 g | C(C)OC(C(C)(C)OC1=CC(=CC=C1)C=O)=O | C13H16O4
reactant | 2-methyl-2-butene | 70.5 mmol, 7.5 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 36.6 mmol, 4.14 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate | 21.1 mmol, 3.30 g | P(=O)(O)(O)[O-].[Na+]
solvent | tert.-butanol | 60 ml | C(C)(C)(C)O | C4H10O
solvent | water | 35 ml | O | H2O
product | 3-(1-Ethoxycarbonyl-1-methyl-ethoxy)-benzoic acid | 3.19 g | C(C)OC(=O)C(C)(OC=1C=C(C(=O)O)C=CC1)C | C13H16O5
